US09062048B2
Step B: 4-(1-(dimethylamino)propyl)cyclohexanone
A solution of (1-{1,4-dioxaspiro[4.5]decan-8-yl}propyl)dimethylamine (as prepared in the previous step, 80 mg, 0.35 mmol, 1.00 equiv) in CH3CN (5 mL) and HCl (1M, 1 mL) was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was diluted with 10 mL of aq. sodium bicarbonate (1M). The resulting solution was extracted with 2×20 mL of dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum to give the title compound as a yellow oil.

reactant | (1-{1,4-dioxaspiro[4.5]decan-8-yl}propyl)dimethylamine | O1CCOC12CCC(CC2)C(CC)N(C)C | C13H25NO2
reactant | HCl | 1M, 1 mL | Cl | ClH
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 4-(1-(dimethylamino)propyl)cyclohexanone | CN(C(CC)C1CCC(CC1)=O)C | C11H21NO
